US08609688B2
tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50.0 mg, 0.101 mmol), 3-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-oxa-3-azabicyclo[3.2.1]octane (64.2 mg, 0.204 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (7.21 mg, 0.0102 mmol), and 2M NaOH aq. (0.150 mL, 0.310) in DMF (2 mL) was heated at 160° C. for 2 hours under microwave irradiation. After cooling to room temperature, the mixture was diluted with EtOAc and washed with water (5×) and brine. The combined organic layers were dried over anhydrous Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=1:4→1:2→1:1→2:1→EtOAc) to afford desired product (62.1 mg, 94.7%) as orange foam.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.101 mmol, 50.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | 3-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-oxa-3-azabicyclo[3.2.1]octane | 0.204 mmol, 64.2 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CC2CCC(C1)O2)C | C18H26BNO3
reactant | NaOH | 2M, 0.150 mL | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0102 mmol, 7.21 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate | 62.1 mg, 94.7% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CC1CCC(C2)O1)C=1C(=NC=CC1)N)=O | C38H41N7O3
